US05254581
Using a similar procedure to that described in Example 11, 6-bromomethyl-1-methyl-1,2-dihydroquinolin-2-one was reacted with 4-ethylthio-4-(5-fluoro-3-hydroxyphenyl)tetrahydropyran to give 4-ethylthio-4-[5-fluoro-3-(1-methyl-2-oxo-1,2-dihydroquinolin-6-ylmethoxy)phenyl]tetrahydropyran in 40% yield, m.p. 73°-75° C.

reactant | 6-bromomethyl-1-methyl-1,2-dihydroquinolin-2-one | BrCC=1C=C2C=CC(N(C2=CC1)C)=O | C11H10BrNO
reactant | 4-ethylthio-4-(5-fluoro-3-hydroxyphenyl)tetrahydropyran | C(C)SC1(CCOCC1)C1=CC(=CC(=C1)F)O | C13H17FO2S
product | 4-ethylthio-4-[5-fluoro-3-(1-methyl-2-oxo-1,2-dihydroquinolin-6-ylmethoxy)phenyl]tetrahydropyran | 40% yield | C(C)SC1(CCOCC1)C1=CC(=CC(=C1)F)OCC=1C=C2C=CC(N(C2=CC1)C)=O | C24H26FNO3S
